US08748434B2
a) [6-Chloro-4-(2-methoxy-pyridin-3-yl)-pyridazin-3-yl]-methyl-amine
To a solution of 6-chloro-4-(2-methoxy-pyridin-3-yl)-pyridazin-3-ylamine (270 mg, 1.14 mmol) in triethyl orthoformate (6 mL) was added 1 drop of trifluoroacetic acid. The reaction mixture was stirred at 100° C. for 3 hours and then concentrated under vacuum (60° C./20 mbar). The residue was dissolved in 5 mL toluene and concentrated again. This was repeated for 3 times to completely remove all volatiles. The residue was dissolved in ethanol (6 mL) and sodium borohydride (86.3 mg, 2.28 mmol) was added in portions at 0° C. The reaction mixture was heated to 90° C. and stirred at this temperature for 2 hours. The reaction was cooled down to 0° C. and the pH was adjusted to 1 by addition of 0.25M aqueous sulfuric acid (5 mL). The yellow reaction mixture was stirred at room temperature for 3 hours, poured on 10% aqueous sodium bicarbonate solution (50 mL) and ethyl acetate (50 mL) (pH ca. 8) and the layers were separated. The aqueous layer was extracted a second time with ethyl acetate (50 mL). The organic layers were washed with brine (50 mL), dried over magnesium sulfate, filtered and concentrated under vacuum. The compound was purified by silica gel chromatography on a 20 g column using an MPLC (Flashmaster) system eluting with a gradient of n-heptane:ethyl acetate (100:0 to 0:100). Light yellow solid (100 mg, 35%). MS (ESI+): m/z=251.069 ([M+H]+).

reactant | 6-chloro-4-(2-methoxy-pyridin-3-yl)-pyridazin-3-ylamine | 1.14 mmol, 270 mg | ClC1=CC(=C(N=N1)N)C=1C(=NC=CC1)OC | C10H9ClN4O
reactant | sodium borohydride | 2.28 mmol, 86.3 mg | [BH4-].[Na+]
reactant | sulfuric acid | 0.25M, 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | triethyl orthoformate | 6 mL | C(OCC)(OCC)OCC | C7H16O3
catalyst | trifluoroacetic acid | 1 drop | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 50 mL, pH ca. 8 | C(C)(=O)OCC | C4H8O2
product | [6-Chloro-4-(2-methoxy-pyridin-3-yl)-pyridazin-3-yl]-methyl-amine | ClC1=CC(=C(N=N1)NC)C=1C(=NC=CC1)OC | C11H11ClN4O
